US04595689
A mixture of 8-bromo-10,11-dihydro-10-(4-pyridinyl)dibenz[b,f]oxepin-10-ol (3.0 g) in trifluoroacetic acid (18 ml) was heated at reflux under argon for five hours. The reaction mixture was concentrated to dryness in vacuo and the residual material was triturated using 1N sodium hydroxide aqueous solution (40 ml). The solids that formed were filtered off, washed thoroughly with water and the dried material was crystallized from dichloromethane-methanol. After the mixture was cooled overnight at 0°-5°, the solids were recovered by filtration, washed well with cold methanol to give 2.1 g of 4-(8-bromodibenz[b,f]oxepin-10-yl)pyridine, mp 195°-197°.

reactant | 8-bromo-10,11-dihydro-10-(4-pyridinyl)dibenz[b,f]oxepin-10-ol | 3.0 g | BrC=1C=CC2=C(C(CC3=C(O2)C=CC=C3)(O)C3=CC=NC=C3)C1 | C19H14BrNO2
solvent | trifluoroacetic acid | 18 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(8-bromodibenz[b,f]oxepin-10-yl)pyridine | 2.1 g | BrC=1C=CC2=C(C(=CC3=C(O2)C=CC=C3)C3=CC=NC=C3)C1 | C19H12BrNO
